US05958942
i) Synthesis of 1,2-dihydro-3-methyl-1-[4-(trifluoroacetamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 1.71 g (7.0 mmol) of 1-[4-(amino) butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one and 1.46 ml (10.5 mmol) of triethylamine in 50 ml of methylene chloride was added, while stirring under ice-cooling, 1.76 g (8.4 mmol) of trifluoroacetic acid anhydride. The mixture was stirred for 3 hours at room temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was crystallized from chloroform-ethanol-ether. The crystals were collected by filtration and washed with ether to give 0.986 g of the desired compound (41.4%, pale yellow crystals). NMR(200 MHz,CDCl3) δ: 1.73(2H,m), 1.93(2H,m), 2.82(3H,s), 3.48(2H,m), 4.12(2H,t,J=6.8 Hz), 6.83(1H,d,J=7.4 Hz), 6.91(1H,br), 7.50(1H,d,J=8.6 Hz), 7.73(1H,dd,J=8.6,7.4 Hz).

reactant | 1-[4-(amino) butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 7.0 mmol, 1.71 g | NCCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C13H16N4O
reactant | triethylamine | 10.5 mmol, 1.46 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 8.4 mmol, 1.76 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-3-methyl-1-[4-(trifluoroacetamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 0.986 g, 41.4% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNC(C(F)(F)F)=O)=O | C15H15F3N4O2
